US08383644B2
N-oxide formation also was performed under the following conditions. To a 6,7-dihydro-5H-[1]pyrindine solution in DCM at 0° C. was added peracetic acid (3 mL, 32% in AcOH), and the reaction was slowly allowed to come to rt and stirred for 12 h. The reaction mixture was diluted with DCM (5 mL) and washed with water, aq NaHCO3, brine, then dried over Na2SO4, filtered and concentrated to afford desired 6,7-dihydro-5H-[1]pyrindine 1-oxide (0.6 g). LCMS (m/z): 136.

reactant | 6,7-dihydro-5H-[1]pyrindine | N1=CC=CC=2CCCC12 | C8H9N
reactant | peracetic acid | 3 mL | C(C)(=O)OO | C2H4O3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 6,7-dihydro-5H-[1]pyrindine 1-oxide | 0.6 g | [N+]1(=CC=CC=2CCCC12)[O-] | C8H9NO
